US06844351B1
4-Chloro-6-ethyl-3-methyl-2-(2,4,5-trimethyl-phenoxy)-pyridine 1-oxide
To a solution of 2,4,6-trimethylphenol in dry THF was added NaH and stirred at room temperature for 20 minutes. A solution of 2,4-dichloro-6-ethyl-3-methyl-pyridine 1-oxide was added and the resulting mixture was heated at reflux for 1.5 hour. The mixture was cooled to room temperature, quenched with water, extracted with ethyl acetate. The organic layer was separated, dried and concentrated to give the title compound which was used directly for the next step reaction.

reactant | 2,4,6-trimethylphenol | CC1=C(C(=CC(=C1)C)C)O | C9H12O
reactant | NaH | [H-].[Na+]
reactant | 2,4-dichloro-6-ethyl-3-methyl-pyridine 1-oxide | ClC1=[N+](C(=CC(=C1C)Cl)CC)[O-] | C8H9Cl2NO
reactant | THF | C1CCOC1 | C4H8O
product | 4-Chloro-6-ethyl-3-methyl-2-(2,4,5-trimethyl-phenoxy)-pyridine 1-oxide | ClC1=C(C(=[N+](C(=C1)CC)[O-])OC1=C(C=C(C(=C1)C)C)C)C | C17H20ClNO2
